US07939666B2
Step 8: (S)-2-[4-({[2-(1-Isobutoxy-ethoxycarbamoyl)-benzo[b]thiophen-6-ylmethyl]-amino}-methyl)-benzylamino]-3-phenyl-propionic acid
(S)-2-[4-({[2-(1-Isobutoxy-ethoxycarbamoyl)-benzo[b]thiophen-6-ylmethyl]-amino}-methyl)-benzylamino]-3-phenyl-propionic acid cyclopentyl ester (40 mg, 0.06 mmol) was dissolved in THF (2 mL) and water (2 mL). LiOH (8 mg, 0.30 mmol) was added and the reaction mixture heated to 50° C. for 36 h. THF was removed by evaporation and the residue partitioned between water (10 mL) and EtOAc (10 mL). The aqueous layer was isolated and the pH adjusted to 3 by addition of 1M HCl. This was extracted with EtOAc (3×20 mL), the organic layers combined and evaporated to dryness.

reactant | (S)-2-[4-({[2-(1-Isobutoxy-ethoxycarbamoyl)-benzo[b]thiophen-6-ylmethyl]-amino}-methyl)-benzylamino]-3-phenyl-propionic acid cyclopentyl ester | 0.06 mmol, 40 mg | C1(CCCC1)OC([C@H](CC1=CC=CC=C1)NCC1=CC=C(C=C1)CNCC=1C=CC2=C(SC(=C2)C(NOC(C)OCC(C)C)=O)C1)=O | C38H47N3O5S
reactant | LiOH | 0.30 mmol, 8 mg | [Li+].[OH-]
reactant | HCl | 1M | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | (S)-2-[4-({[2-(1-Isobutoxy-ethoxycarbamoyl)-benzo[b]thiophen-6-ylmethyl]-amino}-methyl)-benzylamino]-3-phenyl-propionic acid | C(C(C)C)OC(C)ONC(=O)C1=CC2=C(S1)C=C(C=C2)CNCC2=CC=C(CN[C@H](C(=O)O)CC1=CC=CC=C1)C=C2 | C33H39N3O5S
